US07098226B2
Bromoacetic acid (0.50 g, 3.6 mmol) was dissolved in anhydrous tetrahydrofuran (20 ml), and the solution was stirred at −15° C. under a nitrogen atmosphere. N-Methylmorpholine (0.40 ml, 3.6 mmol) and isobutyl chlorocarbonate (0.45 ml, 3.5 mmol) were added to the solution. Then, a solution of a free base of 2-(1-adamantyl)-N-pentylethylamine hydrochloride (Intermediate No. 1-1) (1.0 g, 3.5 mmol) in anhydrous tetrahydrofuran (20 ml) was added dropwise to the mixture. The whole was stirred at 0° C. for 1.5 hours, a saturated aqueous sodium hydrogencarbonate solution (70 ml) and ethyl acetate (70 ml) were added to the reaction mixture, and the reaction mixture was distributed. The ethyl acetate layer was washed with water (70 ml) and a saturated aqueous sodium chloride solution (70 ml) successively and dried over anhydrous magnesium sulfate. The ethyl acetate layer was concentrated under reduced pressure to give 1.3 g (quantitatively) of 2-bromoacetic acid N-[2-(1-adamantyl)ethyl]-N-pentylamide as a oily matter.

reactant | Bromoacetic acid | 3.6 mmol, 0.50 g | BrCC(=O)O | C2H3BrO2
reactant | N-Methylmorpholine | 3.6 mmol, 0.40 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chlorocarbonate | 3.5 mmol, 0.45 ml | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | 2-(1-adamantyl)-N-pentylethylamine hydrochloride | 3.5 mmol, 1.0 g | Cl.C12(CC3CC(CC(C1)C3)C2)CCNCCCCC
reactant | sodium hydrogencarbonate | 70 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
product | 2-bromoacetic acid N-[2-(1-adamantyl)ethyl]-N-pentylamide | C12(CC3CC(CC(C1)C3)C2)CCN(C(CBr)=O)CCCCC | C19H32BrNO
